US08357711B2
tert-Butyl (2S)-2-[(3-chlorophenoxy)methyl]pyrrolidine-1-carboxylate
A solution of diisopropyl azodicarboxylate (1.4 mL, 7.1 mmol) in THF (3.5 mL, 44 mmol) was slowly added to a 0° C. solution of BOC-PRO-OL (1.0 g, 5.0 mmol), 3-chlorophenol (0.68 g, 5.2 mmol) and triphenylphosphine (1.5 g, 5.8 mmol) in THF (17 mL, 210 mmol). The reaction mixture was warmed to ambient temperature. After 3 h the reaction mixture was quenched with 1 N NaOH and extracted with methylene chloride (3×). The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified on the Isco (120 g cartridge, hexanes to ethyl acetate).

reactant | diisopropyl azodicarboxylate | 7.1 mmol, 1.4 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | THF | 44 mmol, 3.5 mL | C1CCOC1 | C4H8O
reactant | BOC-PRO-OL | 5.0 mmol, 1.0 g | CC(C)(C)OC(=O)N1CCC[C@H]1CO | C10H19NO3
reactant | 3-chlorophenol | 5.2 mmol, 0.68 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | triphenylphosphine | 5.8 mmol, 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 210 mmol, 17 mL | C1CCOC1 | C4H8O
product | tert-Butyl (2S)-2-[(3-chlorophenoxy)methyl]pyrrolidine-1-carboxylate | ClC=1C=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC1 | C16H22ClNO3
